US05084085
Iron filings (3.6 g, 0.064 mole) were added slowly to a stirred mixture of 7.0 g (0.017 mole) of 1-[4-chloro-2-fluoro-5-(5-nitropyridin-2-yloxy) phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 25 mL of glacial acetic acid, 12 mL of tetrahydrofuran, and 5 mL of water. The reaction mixture was stirred at room temperature for three hours and was then diluted with 20 mL of diethyl ether. The mixture was filtered through a pad of Celite® filter aid, and the filtrate was stored at 5° C. to 10° C. for approximately 18 hours. The filtrate was neutralized by the addition of solid sodium bicarbonate and water. The organic phase was separated from the aqueous phase. The aqueous phase was extracted several times with diethyl ether, and the extracts were combined with the organic phase. The combined organic phase was washed first with water, then with an aqueous, saturated sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 6.0 g of 1-[5-(5-aminopyridin-2-yloxy)-4-chloro-2-fluorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid.

reactant | 1-[4-chloro-2-fluoro-5-(5-nitropyridin-2-yloxy) phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.017 mole, 7.0 g | ClC1=CC(=C(C=C1OC1=NC=C(C=C1)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C)F | C15H9ClF3N5O4
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | water | 5 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | Iron | [Fe] | Fe
product | 1-[5-(5-aminopyridin-2-yloxy)-4-chloro-2-fluorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 6.0 g | NC=1C=CC(=NC1)OC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C15H11ClF3N5O2
